US05849732
4N hydrogen chloride-dioxane solution (15 ml) was added to 1.50 g of 2-[3-(1-tert-butoxycarbonylpiperidin-4-yl)methyl-3-phenylmethylureido]-4-methoxy-6-tert-butylphenol, and the mixture was stirred at room temperature for 2 hours. Then, the mixture was evaporated to dryness under reduced pressure and the residue was recrystallized from an ethanol solution to give 0.912 g of 2-[3-(4-piperidylmethyl)-3-phenylmethylureido]-4-methoxy-6-tert-butylphenol hydrochloride (yield: 69%, melting point: 195°-196° C.).

reactant | hydrogen chloride dioxane | 4N, 15 ml | Cl.O1CCOCC1
reactant | 2-[3-(1-tert-butoxycarbonylpiperidin-4-yl)methyl-3-phenylmethylureido]-4-methoxy-6-tert-butylphenol | 1.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN(C(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O)CC1=CC=CC=C1 | C30H43N3O5
product | 2-[3-(4-piperidylmethyl)-3-phenylmethylureido]-4-methoxy-6-tert-butylphenol hydrochloride | 0.912 g, yield: 69% | Cl.N1CCC(CC1)CN(C(NC1=C(C(=CC(=C1)OC)C(C)(C)C)O)=O)CC1=CC=CC=C1 | InChI=1S/C25H35N3O3.ClH/c1-25(2,3)21-14-20(31-4)15-22(23(21)29)27-24(30)28(16-18-8-6-5-7-9-18)17-19-10-12-26-13-11-19;/h5-9,14-15,19,26,29H,10-13,16-17H2,1-4H3,(H,27,30);1H
